US04022833
Condensation of 1-undecene oxide and 2-methyl-1,4-butanediamine affords N,N'-(2-methyl-1,4-butylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = H, X= CH2CH(CH3)CH2CH2, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | 2-methyl-1,4-butanediamine | CC(CN)CCN | C5H14N2
product | N,N'-(2-methyl-1,4-butylene)-bis[2-hydroxyundecylamine] | CC(CNCC(CCCCCCCCC)O)CCNCC(CCCCCCCCC)O | C27H58N2O2
